US05006520
In 400 ml of dichloromethane was suspended 45.1 g of anhydrous aluminium chloride. While stirring, 45.1 ml of butylmercaptan was added thereto. After the mixture was stirred at room temperature for 1 hour, 34 g of 1-(3-methoxy- phenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine was added under ice-cooling. The mixture was stirred at room temperature for 6 hours. The reaction mixture was poured into about 2 l of ice-water. The resulting crystals were collected by filtration, and washed with water to give 33.0 g of 1-(3-hydroxy- phenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine, m.p. 142°-144° C.

reactant | aluminium chloride | 45.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | butylmercaptan | 45.1 ml | C(CCC)S | C4H10S
reactant | 1-(3-methoxy- phenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine | 34 g | COC=1C=C(C=CC1)N1N=C(C=2C1=NC=CC2)C2=CC=CC=C2 | C19H15N3O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 1-(3-hydroxy- phenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine | 33.0 g | OC=1C=C(C=CC1)N1N=C(C=2C1=NC=CC2)C2=CC=CC=C2 | C18H13N3O
